US05627202
N-(t-Butyloxy carbonyl)-pyrrolidin-2(S)-ylmethyl]3(S)-ethyl-prolyl-methionine isopropyl ester (1.38 g, 0.0028 mol) was dissolved in EtOAc (40 mL), cooled to -20° C., saturated with HCl gas, and stirred at 0° C. for 1.25 hr, and room temperature for 0.25 hr. Concentration to dryness gave pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-prolyl-methionine isopropyl ester hydrochloride.

reactant | 3(S)-ethyl-prolyl-methionine isopropyl ester | 0.0028 mol, 1.38 g | C(C)(C)OC([C@@H](NC([C@H]1NCC[C@@H]1CC)=O)CCSC)=O | C15H28N2O3S
reactant | HCl | Cl | ClH
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 3(S)-ethyl-prolyl-methionine isopropyl ester hydrochloride | Cl.C(C)(C)OC([C@@H](NC([C@H]1NCC[C@@H]1CC)=O)CCSC)=O | InChI=1S/C15H28N2O3S.ClH/c1-5-11-6-8-16-13(11)14(18)17-12(7-9-21-4)15(19)20-10(2)3;/h10-13,16H,5-9H2,1-4H3,(H,17,18);1H/t11-,12-,13-;/m0./s1
